**** tran2 butterworthbpf test #1 *****

.tran2 tstop=16us tstep=1ns out_steps=2000

vsource:vin 1 0 vac=1.0 f=1e6 

R:Rin1 1 2 r=50
Butterworthbpf:b1 2 3 0 order=5 fc=1e6 bw=400e3 z0=50
R:Rout1 3 0 r=50

.options gnuplot
.options preample1="set term x11 font 'helvetica,13';
set title 'Butterworth Filter Transient Response'; set xlabel 'TIME (microseconds)'; 
set ylabel 'Voltage (V)"
.out plot term 3 vt 1e6 scalex preample1 in "butterworthbpf.tran.out1"

.end






